US09238640B2
Preparation of 2-(4-(4-(2,2,2-Trifluoroethyl)piperazin-1-yl)phenyl)quinazolin-4(3H)-one
To a mixture of 2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.325 g, 1.06 mmol) in THF (50 mL) was added Hünig's base (0.192 g, 1.48 mmol), followed by 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.295 g, 1.3 mmol). The reaction mixture was heated at reflux for 15 hours, concentrated, and purified by flash chromatography on silica gel, eluting with 100% CH2Cl2 to 100% ethyl acetate, to afford the title compound as an off-white solid (0.385 g, 94%). 1H NMR (300 MHz, DMSO-d6): δ 12.27 (br s, 1H), 8.10-8.14 (m, 3H), 7.76-7.82 (m, 1H), 7.67 (d, J=7.8 Hz, 1H), 7.42-7.47 (m, 1H), 7.05 (d, J=9.1 Hz, 2H), 3.21-3.34 (m, 6H), 2.73-2.78 (m, 4H). APCI MS m/z 389 [M+H]+.

reactant | 2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 1.06 mmol, 0.325 g | N1(CCNCC1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C18H18N4O
reactant | Hünig's base | 1.48 mmol, 0.192 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 1.3 mmol, 0.295 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-(4-(2,2,2-Trifluoroethyl)piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.385 g, 94% | FC(CN1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O)(F)F | C20H19F3N4O
